### PR TITLE
[Merged by Bors] - feat: induction principle for open sets according to a basis

### PR DESCRIPTION
**Pull request by YaelDillies**
This feels like an obvious omission.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/Topology/Bases.lean [hunk 1]
```diff
@@ -191,6 +191,12 @@ theorem IsTopologicalBasis.open_eq_iUnion {B : Set (Set α)} (hB : IsTopological
     rw [← sUnion_eq_iUnion]
     apply hB.open_eq_sUnion' ou, fun s => And.left s.2⟩
 
+@[elab_as_elim]
+lemma IsTopologicalBasis.isOpen_induction {P : Set α → Prop} (hB : IsTopologicalBasis B)
+    (basis : ∀ b ∈ B, P b) (iUnion : ∀ S, (∀ s ∈ S, P s) → P (⋃₀ S)) {s : Set α} (hs : IsOpen s) :
+    P s := by
+  obtain ⟨S, hS, rfl⟩ := hB.open_eq_sUnion hs; exact iUnion _ fun b hb ↦ basis _ <| hS hb
```
Comment (j-loreaux) [inline Mathlib/Topology/Bases.lean]:
```suggestion
lemma IsTopologicalBasis.isOpen_induction {P : Set α → Prop} (hB : IsTopologicalBasis B)
    (basis : ∀ b ∈ B, P b) (sUnion : ∀ S, (∀ s ∈ S, P s) → P (⋃₀ S)) {s : Set α} (hs : IsOpen s) :
    P s := by
  obtain ⟨S, hS, rfl⟩ := hB.open_eq_sUnion hs; exact sUnion _ fun b hb ↦ basis _ <| hS hb
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
